US07432289B2
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) in cyclopropylmethylamine (1 ml) was heated at 85° C. for 48 h and then at 110° C. for 48 h in a sealed tube. The reaction was concentrated under vacuum, the residue triturated with water and purified by preparative HPLC. The solvent was evaporated under vacuum to give 2-(cyclopropylmethylamino)-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (17.1 mg, 32%). NMR; εH [2H6]—DMSO 10.27,(1H, s), 8.62,(1H, t), 8.08,(1H, d), 7.93,(2H, d), 7.70-7.66,(2H, m), 7.44,(2H, d), 7.28,(1H, d), 6.89-6.87,(3H, m), 3.16,(4H, m), 2.20,(3H, s), 1.04,(2H, m), 0.43,(4H, m), 0.25-0.19,(4H, m). LCMS: retention time 2.96 min, MH+455.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
solvent | cyclopropylmethylamine | 1 ml | C1(CC1)CN | C4H9N
product | 2-(cyclopropylmethylamino)-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 17.1 mg, 32% | C1(CC1)CNC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C28H30N4O2
